US05753710
2.1 g of 2-chloro-5-trifluoromethylbenzaldehyde, 15 ml of methylamine and 2 g of magnesium sulfate were stirred at room temperature for 2 h, the excess methylamine for the most part evaporating. The reaction mixture was diluted with ether, filtered and concentrated in vacuo. The methylbenzimine thus obtained was dissolved in 15 ml of THF and added dropwise to a suspension of 1.5 g of sodium borohydride in 15 ml of THF. After stirring overnight, the mixture was treated with 30 ml of methanol, stirred for a further 30 min and then rendered acidic with dil. hydrochloric acid. It was extracted with tert-butyl methyl ether, and the aqueous phase was rendered alkaline and extracted twice again with tert-butyl methyl ether. After concentrating this extract, 1.0 g of N-(2-chloro-5-trifluoromethylbenzyl)-N-methylamine was obtained.

reactant | 2-chloro-5-trifluoromethylbenzaldehyde | 2.1 g | ClC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4ClF3O
reactant | methylamine | 15 ml | CN | CH5N
reactant | magnesium sulfate | 2 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
product | N-(2-chloro-5-trifluoromethylbenzyl)-N-methylamine | 1.0 g | ClC1=C(CNC)C=C(C=C1)C(F)(F)F | C9H9ClF3N
